### PR TITLE
refactor: define `List.IsChain`, deprecate `Chain` and `Chain'`

### PR DESCRIPTION
**Pull request by urkud**

### CODE REVIEW

**Comment by digama0** [comment]
I'm not a fan, this turns things that would be recursive on lists into well founded recursions.

**Comment by urkud** [comment]
What about renaming `Chain'` -> `IsChain`, `Chain` -> `IsChain'` or `IsChain.Aux`?

**Comment by urkud** [comment]
BTW, what things start using well founded recursions with my def?

**Comment by fgdorais** [comment]
I'm partial to `IsChain1`. Any particular reason why `IsChain` (and `IsChain1`) are `def` instead of `inductive`?

**Comment by urkud** [comment]
My main motivation is that we get `isChain_cons_cons` for free.

**Comment by urkud** [comment]
What's wrong with using `IsChain (a::l)` when you want `IsChain1 a l`?

File: Batteries/Data/List/Lemmas.lean [hunk 1]
```diff
@@ -346,50 +346,136 @@ theorem disjoint_take_drop : ∀ {l : List α}, l.Nodup → m ≤ n → Disjoint
...
+theorem isChain_cons_iff_head :
+    IsChain R (a :: l) ↔ (∀ h : l ≠ [], R a (l.head h)) ∧ l.IsChain R := by
+  cases l <;> simp
+
+theorem isChain_cons_iff_head? : IsChain R (a :: l) ↔ (∀ b ∈ l.head?, R a b) ∧ l.IsChain R := by
+  cases l <;> simp
+
+/-- Recursion principle for `List.IsChain. -/
+@[elab_as_elim]
+protected def IsChain.rec {p : ∀ l : List α, IsChain R l → Sort u}
```
Comment (fgdorais) [inline Batteries/Data/List/Lemmas.lean:380]: Please use `motive` instead of `p`.

File: Batteries/Data/List/Lemmas.lean [hunk 2]
```diff
@@ -346,50 +346,136 @@ theorem disjoint_take_drop : ∀ {l : List α}, l.Nodup → m ≤ n → Disjoint
...
+    (nil : p [] .nil) (singleton : ∀ a, p [a] .singleton)
+    (cons : ∀ a b l (hab : R a b) (hbl : IsChain R (b :: l)), p (b :: l) hbl →
+      p (a :: b :: l) (.cons hab hbl)) : ∀ l hl, p l hl
+  | [], _ => nil
+  | [_], _ => singleton _
+  | a::b::l, h => cons a b l h.rel _ (h.of_cons.rec nil singleton cons)
+
+/-- Induction principle for `List.IsChain. -/
+@[elab_as_elim]
+protected theorem IsChain.induction {p : ∀ l : List α, IsChain R l → Prop}
```
Comment (fgdorais) [inline Batteries/Data/List/Lemmas.lean:390]: Isn't this redundant?

File: Batteries/Data/List/Lemmas.lean [hunk 3]
```diff
@@ -346,50 +346,136 @@ theorem disjoint_take_drop : ∀ {l : List α}, l.Nodup → m ≤ n → Disjoint
...
+    (nil : p [] .nil) (singleton : ∀ a, p [a] .singleton)
+    (cons : ∀ a b l (hab : R a b) (hbl : IsChain R (b :: l)), p (b :: l) hbl →
+      p (a :: b :: l) (.cons hab hbl)) : ∀ l hl, p l hl := fun l hl =>
+  IsChain.rec nil singleton cons l hl
+
+theorem IsChain.imp_of_mem (hRS : ∀ a ∈ l, ∀ b ∈ l, R a b → S a b) (h : IsChain R l) :
+    IsChain S l := by
+  induction l with
```
Comment (fgdorais) [inline Batteries/Data/List/Lemmas.lean:398]: Wouldn't this be simpler using `IsChain.rec`?

File: Batteries/Data/List/Lemmas.lean (hunk 1 above)
Comment (fgdorais) [reply Batteries/Data/List/Lemmas.lean:380]: Maybe add `recOn` for convenience? I'm not sure if `casesOn` would be useful but it doesn't hurt to have it.

**Comment by fgdorais** [comment]
I would like to merge this sooner than later. It looks like there's just a few small issues and a Mathlib adaptation.

**Comment by urkud** [comment]
I'm sorry for the delay. I'll have some time to work on this tomorrow.

**Comment by fgdorais** [comment]
Umm, I this PR still active?
